US05041455
A. 3-(4-(4-methylpiperidino)-1,2,5-thiadiazol-3-yl) pyridine
A solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (10.80 g, 4 mmol) and 4-methylpiperidine (1.96 g, 20 mmol) in DMF (10 ml) was heated at 100° C. for 3 h. After evaporation water was added to the residue and extracted with ether. The combined and dried organic phases were evaporated and the residue purified by column chromatography (SiO2, eluent: ethyl acetate/methylene chloride (1:2)). Yield: 0.8 g (77%).

reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 4 mmol, 10.80 g | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | 4-methylpiperidine | 20 mmol, 1.96 g | CC1CCNCC1 | C6H13N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(4-(4-methylpiperidino)-1,2,5-thiadiazol-3-yl) pyridine | CC1CCN(CC1)C=1C(=NSN1)C=1C=NC=CC1 | C13H16N4S
